Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever/Chills
 
Major Surgical or Invasive Procedure:
None this hospitalization.

 
History of Present Illness:
Mr. ___ is a pleasant ___ w/ HTN, NIDDM, s/p radical 
cystoprostatectomy for bladder carcinoma, now w/ pelvic and 
thoracic recurrence, on C2D5 Gemcitabine/Cisplatin. Due to his 
MS, history obtain from his wife and daughter. They note that 
the chemo has taken a toll on him w/ significant nausea, poor PO 
intake. Today at 3 am he developed abruptly fevers to 102, 
chills, rigors, and vomiting. Wife noted that his urine the past 
few weeks has been malodorous intermittently and notes similar 
presentation to recent admission in ___ when he was found to 
have urosepsis. No diarrhea but has intermittent loose stools.

In ED, tmax 101, hr 96, 142/73, 16, 99% RA. He received Zosyn, 
Vanc, and IVF. K was 5.7 and received insulin/D5. On arrival to 
OMED, pt noted feeling stronger. Family admits that the pt seems 
to be slightly confused and this is new.
 
Past Medical History:
Mr. ___ has a ___ year history of chronic self catheterization 
secondary to injury from agent orange exposure. About 2 or ___ 
years ago, he began developing hematuria, including large clots 
that would block his catheter. He saw his urologist and reports 
a normal report. In ___ or ___, however, he 
developed very heavy hematuria while residing in ___. He 
underwent CT imaging which revealed a 6 cm mass in the bladder, 
with biopsy confirming bladder carcinoma. He returned to ___ 
at the end of ___ and was seen by urology with radical 
cystoprostatectomy on ___ notable for 6.5 x 3.5 x 3.0cm high 
grade urothelial ca, a separate focus of papillary transitional 
cell, and right lobe of prostate ___ 3+4 prostate cancer, 
with 2 positive lymph nodes (right obturator lymph node, left 
obturator lymph node). He recovered from surgery over the next 
couple weeks but then in ___ developed severe, limiting fatigue, 
and ultimately rigors and fevers to 103. He presented to ___ 
ED on ___ and was found to have a MDR E.Coli UTI and was 
treated with a 10 day course of IV antibiotics. During this 
admission, CT A&P revealed an abnormal left pelvic sidewall soft 
tissue, potentially evidence of metastatic disease. He also had 
biopsy of a paraesophageal node which was consistent with 
metastatic bladder cancer.

- ___: C1D1 Gemcitabine/Cisplatin
- ___: C2D1 Gemcitabine/Cisplatin

PAST MEDICAL HISTORY:
- Metastatic Bladder Cancer
- Agent Orange Exposure
- Hypertension
- Dyslipidemia
- Type II Diabetes
- Gout
 
Social History:
___
Family History:
No bladder cancer history that they know of; however, both 
parents died of cancer ___ unknown primary. 
 
Physical Exam:
========================
Admission Physical Exam:
========================
Vital Signs: Temp 98.6, BP 122/68, HR 100, RR 18, O2 sat 96% RA.
General: NAD, Resting in bed comfortably.
HEENT: MM dry, no OP lesions, no cervical/supraclavicular 
adenopathy.
CV: RR, NL S1S2 no S3S4 No MRG.
PULM: CTAB, No C/W/R, No respiratory distress.
ABD: BS+, soft, NTND, no palpable masses or HSM, urostomy 
revealed clear yellow urine.
LIMBS: WWP, no ___, no tremors.
SKIN: No rashes on the extremities.
NEURO: Grossly normal.

============================
Discharge Physical Exam: 
============================
98.0 PO 140 / 80 74 18 97 RA 
General: NAD, Resting in bed comfortably.
HEENT: MM dry, no OP lesions, no cervical/supraclavicular 
adenopathy.
CV: RR, NL S1S2 no S3S4 No MRG.
PULM: CTAB, No C/W/R, No respiratory distress.
ABD: BS+, soft, NTND, no palpable masses or HSM, urostomy  
withclear yellow urine.
LIMBS: WWP, no ___, no tremors.
SKIN: No rashes on the extremities.
NEURO: Grossly normal.

 
Pertinent Results:
===============
Admission Labs:
===============
___ 02:16PM BLOOD WBC-1.8*# RBC-3.68* Hgb-9.5* Hct-30.1* 
MCV-82 MCH-25.8* MCHC-31.6* RDW-14.8 RDWSD-40.4 Plt ___
___ 02:16PM BLOOD Neuts-84* Bands-0 Lymphs-4* Monos-7 Eos-3 
Baso-1 ___ Metas-1* Myelos-0 AbsNeut-1.51* AbsLymp-0.07* 
AbsMono-0.13* AbsEos-0.05 AbsBaso-0.02
___ 02:16PM BLOOD Glucose-199* UreaN-40* Creat-2.0* Na-140 
K-5.7* Cl-100 HCO3-24 AnGap-16
___ 02:16PM BLOOD ALT-21 AST-15 AlkPhos-76 TotBili-0.3
___ 07:30AM BLOOD Albumin-3.1* Calcium-8.1* Phos-4.1 
Mg-1.2* UricAcd-8.2*
___ 02:20PM BLOOD Lactate-2.1*

==============
Interval Labs:
==============
___ 02:48AM BLOOD Lactate-1.1
___ 02:30AM BLOOD Glucose-152* UreaN-44* Creat-2.8* Na-139 
K-3.9 Cl-102 HCO3-20* AnGap-17*

===============
Discharge Labs:
===============
___ 06:43AM BLOOD WBC-9.0 RBC-2.92* Hgb-7.6* Hct-24.0* 
MCV-82 MCH-26.0 MCHC-31.7* RDW-15.1 RDWSD-42.4 Plt ___
___ 06:43AM BLOOD Glucose-169* UreaN-17 Creat-1.7* Na-144 
K-4.1 Cl-104

========
Imaging:
========
CXR ___
Impression: No acute intrathoracic process.

Renal Ultrasound ___
1. Mild pelvicaliectasis is noted in the left kidney, similar to 
prior study in ___. No hydronephrosis in the right kidney.
2. Multiple cortically based hypoechoic lesions are also noted 
in the left kidney, the largest measuring 2.1 cm, likely simple 
cysts but not well characterized due to artifact.
3. Right kidney simple cysts.

=============
Microbiology:
=============
___ Blood Culture x 2 - MDR E. Coli (Sensitive to meropenem,
gent, tobra, bactrim. Resistant to Amp, Cipro, CTX)
___ Urine Culture - E. coli, Klebsiella Pneumoniae
___ Blood Culture - E. coli
___ Blood Culture - Pending
___ Blood Culture - Pending
___ Blood Culture - Pending
___ Blood Culture - Pending

 
Brief Hospital Course:
Mr. ___ is a ___ male with hypertension, 
diabetes, and bladder cancer s/p radical cystoprostatectomy with 
ureterostomy with pelvic and thoracic recurrence on palliative 
gemcitabine/cisplatin who presents with fever/chills, vomiting, 
and malodorous urine found to have E.coli sepsis secondary to 
UTI.

# E. Coli Sepsis secondary to Urinary Tract Infection: Meets 
criteria for sepsis with fever, tachycardia, and lactic 
acidosis. E. coli in blood and urine sensitive to meropenem and 
ertapenem. He was continued on meropenem during his 
hospitalization and discharged on ertapenem to complete a 14-day 
course.

# Acute on Chronic Stage III Kidney Disease: Non-oliguric. Cr 
elevated to 2.0 on admission and uptrending to peak of 2.9. 
Baseline Cr 1.3-1.5. He likely has
multifactorial ATN in setting of sepsis, hypovolemia from poor 
PO intake, and cisplatin injury in the setting of taking ACE-I. 
Has prior history of left-sided hydroureteronephrosis noted on 
abdominal CT from ___ which also showed atrophic right 
kidney. Urine lytes showed FeNa 1.3%. He continued to make good 
urine output and had no indications of hemodialysis. Renal 
ultrasound showed stable left hydronephrosis and no ureter 
strictures or stones for etiology of recurrent UTIs. He was 
given continuous IVF due to poor PO intake. His renal function 
was improving at time of discharge.

# Acute Gout Flare:
# Left Ankle Pain: Patient with left ankle pain consistent with 
prior history of gout attacks in same ankle. He is not currently 
on urate-lowering therapy. Low suspicion for septic joint at 
this time. His pain was controlled with colchicine and opiates. 
He would likely benefit from allopurinol in the future after 
acute flare resolves.

# Hyperkalemia: K elevated to 5.7 on admission. Etiology likely 
renal failure and hypovolemia. No peaked TW on EKG. Improved 
with insulin/D50 and fluids. Received kayexelate on ___.

# Metastatic Bladder Cancer: Metastatic to pelvic soft tissue 
and lymph nodes. Currently receiving palliative gemcitabine and 
cisplatin. He will follow-up with his outpatient Oncologist.

# Cancer-Related Pain: Currently well-controlled on oxycontin. 
Continued oxycontin and oxycodone.

# Anemia: Likely secondary to malignancy and recent 
chemotherapy. No evidence of active bleeding. His H/H uptrended 
and he did not require any transfusions.

# Malnutrition: Patient with poor PO intake in setting of 
metastatic malignancy and poor appetite with chemotherapy. He 
was followed by Nutrition.

# Hypertension: Held hold losartan during hospitalization. 
Continued home amlodipine and aspirin.

# Type II Diabetes: Held home glipizide and metformin during 
hospitalization and restarted at time of discharge. Patient's 
blood sugars were well-controlled on insulin while hospitalized.

# Hyperlipidemia: Continued home atorvastatin.

# GERD: Continued home omeprazole.

====================
Transitional Issues:
====================
TRANSITIONAL ISSUES:
=====================
#ANTIBIOTIC COURSE: Given last (+) blood culture on ___, will 
need to complete 14-day course of ertapenem through and 
including ___. 
___: Patient with ___, now in post-ATN diuresis phase. 
Discharge creatinine is 1.7 with a trend down. Please ensure 
volume status remains stable as well as Na/K/Mg.
#DIABETES: Glipizide re-started upon discharge. Metformin held 
until Cr 1.5, please recheck creatinine and FSG and consider 
restarting metformin as appropriate.
#GOUT FLARE: Left ankle vastly improved with first doses of 
colchicine so arthrocentesis deferred, unlikely to be 
infectious. Discharged on 10 day course of 0.3mg/d colchicine. 
Consider continuing, starting allopurinol after acute phase. 
# Code Status: Full Code
# Contact: ___ (wife/HCP) ___, 
___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Losartan Potassium 75 mg PO DAILY 
4. GlipiZIDE 5 mg PO BID 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. OxyCODONE SR (OxyconTIN) 10 mg PO QAM 
7. OxyCODONE SR (OxyconTIN) 20 mg PO QPM 
8. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
10. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
11. Aspirin 81 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID:PRN constipation 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Dexamethasone 4 mg PO DAILY For days 2 and 3 aftere 
chemotherapy. 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
17. Omeprazole 20 mg PO BID
 
Discharge Medications:
1.  Colchicine 0.3 mg PO DAILY 
RX *colchicine 0.6 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*5 Tablet Refills:*0 
2.  ertapenem 1 gram injection DAILY 
RX *ertapenem [Invanz] 1 gram 1 g IV daily Disp #*10 Vial 
Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  amLODIPine 5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Dexamethasone 4 mg PO DAILY For days 2 and 3 aftere 
chemotherapy.  
8.  Docusate Sodium 100 mg PO BID:PRN constipation  
9.  GlipiZIDE 5 mg PO BID  
10.  Losartan Potassium 75 mg PO DAILY  
11.  Omeprazole 20 mg PO BID  
12.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
13.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
14.  OxyCODONE SR (OxyconTIN) 10 mg PO QAM  
15.  OxyCODONE SR (OxyconTIN) 20 mg PO QPM  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
18.  Senna 8.6 mg PO BID:PRN constipation  
19. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until your PCP 
tells you you can restart it

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- E. Coli Sepsis secondary to Urinary Tract Infection
- Acute on Chronic Stage III Kidney Disease
- Acute Gout Flare
- Hyperkalemia
- Metastatic Bladder Cancer
- Type II Diabetes
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted with fevers and 
found to have an infection in your urine and blood. You will 
continue IV antibiotics for this as an outpatient. You also had 
a flare of the gout in your ankle/foot which you were started on 
medication for. You kidney function was impaired on admission 
due to the infection and dehydration but this improved over the 
course of your hospitalization.

Please follow-up with your appointments a below.

All the best,
Your ___ Team
 
Followup Instructions:
___